US04022795
4-Chloropyridine (11.35 parts), benzyltriethylammonium chloride (2.0 parts), sodium hydroxide liquor (32%; 13.5 parts), 3% palladium on charcoal (50% paste; 2.0 parts) and sodium formate (10.2 parts in water (30 parts) are stirred at the boil under reflux for 4 hours. Sodium formate (3.4 parts) is added and then the mixture held at the boil for a further 24 hours. The reaction mixture is cooled and then filtered. The residue is extracted continuously with hot methanol (100 parts) for 6 hours. The extract when evaporated to dryness gives 3.6 parts (46.2%) of 4,4'-bipyridyl.

reactant | 4-Chloropyridine | ClC1=CC=NC=C1 | C5H4ClN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium formate | C(=O)[O-].[Na+]
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
product | 4,4'-bipyridyl | 46.2% | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
